US05624917
m-Chloroperbenzoic acid (2.62 g) in limited amounts was added to a solution of tetraethyl 6-(phenylthio)hexylaminomethylenebisphosphonate (6.85 g) in dichloromethane (100 ml) under ice-cooling over 30 minutes. The reaction mixture was stirred under ice-cooling for 3 hours, and then washed with a saturated aqueous solution of sodium bicarbonate and water and dried (MgSO4). The solvent was distilled off under reduced pressure. The residual oil was subjected to column chromatography on silica gel. Tetraethyl 6-(phenylsulfinyl)hexylaminomethylenebisphosphonate (5.84 g, 82.6%) was obtained as an oil from the fractions obtained by elution with ethyl acetate-chloroform-methanol (10:10:1, v/v).

reactant | m-Chloroperbenzoic acid | 2.62 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | tetraethyl 6-(phenylthio)hexylaminomethylenebisphosphonate | 6.85 g | C1(=CC=CC=C1)SCCCCCCNC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C21H39NO6P2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Tetraethyl 6-(phenylsulfinyl)hexylaminomethylenebisphosphonate | 5.84 g, 82.6% | C1(=CC=CC=C1)S(=O)CCCCCCNC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C21H39NO7P2S
